US03953429
a. 3α-Acetoxy-9α-chloro-11β-hydroxy-5α -pregnan-20-one
3α-Acetoxy-9β,11β-epoxy-5α-pregnan-20-one (500 mg.) was dissolved in ether and the ether evaporated to leave a gummy residue. Hydrochloric acid (11.6N; 5ml.) was added and the reaction stirred for 4 min., it was then poured into aqueous sodium bicarbonate solution and the solid filtered off, washed with water and dried. Crystallisation from methyl acetate-petrol gave the title compound (250 mg.), m.p. 175°-179°. Recrystallisation from aqueous acetone gave a sample m.p. 177°-179°, [α]D + 97°.

reactant | 3α-Acetoxy-9β,11β-epoxy-5α-pregnan-20-one | 500 mg | C(C)(=O)O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(C[C@H]4[C@]3([C@]2(CC1)C)O4)C | C23H34O4
reactant | Hydrochloric acid | 11.6N, 5ml | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ether | CCOCC | C4H10O
product | 3α-Acetoxy-9α-chloro-11β-hydroxy-5α -pregnan-20-one | 250 mg | C(C)(=O)O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(C[C@@H]([C@@]3([C@]2(CC1)C)Cl)O)C | C23H35ClO4
